US09260414B2
((S)-1-{(S)-2-[4-(4′-Amino-2′-chloro-biphenyl-4-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester
Saturated aqueous sodium carbonate (0.2 mL) was added to a mixture of [(S)-2-methyl-1-((S)-2-{4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-propyl]-carbamic acid methyl ester (100 mg, 0.20 mmol), 4-bromo-3-chloroaniline (46 mg, 0.22 mmol), tetrakis(triphenylphosphine)palladium(0) (23 mg, 0.02 mmol), and water (0.3 mL). The reaction mixture was purged with nitrogen and then 1,4-dioxane (0.7 mL) was added. The reaction mixture was degassed, stirred, and heated at 90° C. overnight. Water and ethyl acetate were added; the reaction mixture was concentrated; dissolved in 1:1 acetic acid:water (1 mL) and purified by preparative HPLC. Fractions were combined, adjusted to pH 8-9 with aqueous sodium bicarbonate, and extracted with DCM. Extracts were washed with water, dried with sodium sulfate, and concentrated. The concentrate was dissolved in methanol and concentrated under vacuum to provide the title compound (m/z): [M+H]+ calcd for C26H30ClN5O3 496.20 found 496.7.

reactant | sodium carbonate | 0.2 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | [(S)-2-methyl-1-((S)-2-{4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-propyl]-carbamic acid methyl ester | 0.20 mmol, 100 mg | COC(N[C@@H](C(C)C)C(=O)N1[C@@H](CCC1)C=1NC=C(N1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C26H37BN4O5
reactant | 4-bromo-3-chloroaniline | 0.22 mmol, 46 mg | BrC1=C(C=C(N)C=C1)Cl | C6H5BrClN
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.02 mmol, 23 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 0.3 mL | O | H2O
product | ((S)-1-{(S)-2-[4-(4′-Amino-2′-chloro-biphenyl-4-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | COC(N[C@@H](C(C)C)C(=O)N1[C@@H](CCC1)C=1NC=C(N1)C1=CC=C(C=C1)C1=C(C=C(C=C1)N)Cl)=O | C26H30ClN5O3
